US07871752B2
Synthesis of 7-methoxycarbonyl-2-oxohexahydro-3,5-methano-2H-cyclopenta[b]furan-6-yl 2-chloroacetate
In 180 ml of tetrahydrofuran were dissolved 25.0 g of methyl 6-hydroxy-2-oxohexahydro-3,5-methano-2H-cyclopenta-[b]furan-7-carboxylate and 16.0 g of 2-chloroacetic acid chloride. To the solution below 20° C., 10.7 g of pyridine was added dropwise. The solution was stirred at room temperature for 1 hour and combined with 40 g of a 5% aqueous solution of sodium hydrogen carbonate, followed by ordinary post-treatment. Recrystallization from isopropyl ether gave 31.5 g of the target compound (yield 93%).

reactant | methyl 6-hydroxy-2-oxohexahydro-3,5-methano-2H-cyclopenta-[b]furan-7-carboxylate | 25.0 g | OC1C2CC3C1OC(C3C2C(=O)OC)=O | C10H12O5
reactant | 2-chloroacetic acid chloride | 16.0 g | ClCC(=O)Cl | C2H2Cl2O
reactant | pyridine | 10.7 g | N1=CC=CC=C1 | C5H5N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
product | 7-methoxycarbonyl-2-oxohexahydro-3,5-methano-2H-cyclopenta[b]furan-6-yl 2-chloroacetate | 31.5 g, yield 93% | ClCC(=O)OC1C2CC3C1OC(C3C2C(=O)OC)=O | C12H13ClO6
